US07329658B2
Preparation of Intermediate 1-Benzhydryl-3-dimethylaminoazetidine-3-carboxylic Acid Amide (I-3A-3b)
A vigorously stirred solution of 1-benzhydryl-3-dimethylaminoazetidine-3-carbonitrile (I-3A-3a; 1.55 g, 5.32 mmol) in methylene chloride (30 ml) cooled in an ice bath was treated with H2SO4 (3.0 ml, 54 mmol), dropwise. After warming to room temperature and stirring overnight, the reaction was cooled in an ice bath and then carefully quenched with concentrated aqueous NH4OH to pH 11. The mixture was extracted with methylene chloride. The combined organic layers were dried (Na2SO4) and then concentrated. The crude product (4:1 product to starting material) was then purified on a Biotage™ Flash 40M column using 3% methanol in methylene chloride as eluant. The residue (1.04 g) was then triturated from ether to afford I-3A-3b (0.75 g, 45%): +ESI MS (M+1) 310.3; 1H NMR (400 MHz, CD3OD) δ 7.40 (d, J=7.5 Hz, 4H), 7.24 (t, J=7.5 Hz, 4H), 7.17 (t, J=7.3 Hz, 2H), 4.42 (s, 1H), 3.41 (d, J=8.7 Hz, 2H), 3.12 (d, J=8.7 Hz, 2H), 2.26 (s, 6H).

reactant | 1-benzhydryl-3-dimethylaminoazetidine-3-carbonitrile | 5.32 mmol, 1.55 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)(C#N)N(C)C | C19H21N3
reactant | H2SO4 | 54 mmol, 3.0 ml | OS(=O)(=O)O | H2O4S
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 1-Benzhydryl-3-dimethylaminoazetidine-3-carboxylic Acid Amide | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)(C(=O)N)N(C)C | C19H23N3O
